US07157464B2
Synthesis of 2-[5-(2-Bromo-phenyl)-tetrazol-1-yl]-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone
5-(2-Bromo-phenyl)-1H-tetrazole (0.374 g, 1.66 mmol) was taken in dry DMF (15 mL) and dry potassium carbonate (800 mg) and KI (20 mg) was added to it and stirred at rt for 1 h under nitrogen. 2-Chloro-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone (500 mg, 1.8 mmol) in DMF (5 mL) was then added to the mixture through a syringe. The reaction was then heated at 140° C. for 14 h, cooled and quenched with water and extracted with ethyl acetate. Drying of the organic layer with Na2SO4 followed by concentration afforded material that was further purified by flash column chromatography (ethyl acetate/pet ether): 1H NMR (300 MHz, CDCl3): δ 7.90 (d, 1H), 7.74 (d, 1H), 7.45 (t, 1H), 7.35 (t, 1H), 7.25 (d, 2H), 6.87 (d, 2H), 5.65 (s, 2H), 3.84 (m, 2H), 3.73 (m, 2H), 3.20 (m, 4H).

reactant | 5-(2-Bromo-phenyl)-1H-tetrazole | 1.66 mmol, 0.374 g | BrC1=C(C=CC=C1)C1=NN=NN1 | C7H5BrN4
reactant | potassium carbonate | 800 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Chloro-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone | 1.8 mmol, 500 mg | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C12H14Cl2N2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[5-(2-Bromo-phenyl)-tetrazol-1-yl]-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone | BrC1=C(C=CC=C1)C1=NN=NN1CC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C19H18BrClN6O
